US05075445
A solution of 9-(4-acetoxy-3-acetoxymethyl-but-1-yl)-2-amino-6-chloropurine (15.5 g, 43.6 mmol) in 2 M hydrochloric acid (150 ml) was heated under reflux for 2 hours. The solution was then cooled to room temperature and neutralised with 10% sodium hydroxide solution, left to stand at 4° C., and the resulting precipitate filtered off, washed with cold water and recrystallized from water to give 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine as a white crystalline solid (9.4 g, 85%) mp 275°-277°.

reactant | 9-(4-acetoxy-3-acetoxymethyl-but-1-yl)-2-amino-6-chloropurine | 43.6 mmol, 15.5 g | C(C)(=O)OCC(CCN1C2=NC(=NC(=C2N=C1)Cl)N)COC(C)=O | C14H18ClN5O4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 2 M, 150 ml | Cl | ClH
product | 9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | 9.4 g, 85% | OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)CO | C10H15N5O3
